US09029531B2
Step B: 2-(2-methoxyphenyl)-N-(5-((1S,3S)-3-(5-(2-(pyridin-2-yl)acetamido)-1,3,4-thiadiazol-2-yl)cyclohexyl)-1,3,4-thiadiazol-2-yl)acetamide (Compound 79)
A solution of N-(5-((1S,3S)-3-(5-amino-1,3,4-thiadiazol-2-yl)cyclohexyl)-1,3,4-thiadiazol-2-yl)-2-(pyridin-2-yl)acetamide (50 mg, 0.12 mmol), 2-(2-methoxyphenyl)acetic acid (31.0 mg, 0.19 mmol), HATU (71.0 mg, 0.19 mmol), and N-ethyl-N-isopropylpropan-2-amine (29.0 mg, 0.22 mmol) in N,N-dimethylformamide (5 ml) was stirred at 50 degree overnight. The mixture was poured into water (10 ml), the precipitate was filtered to give the crude product. The crude product was purified by a standard method to give the desired product.

reactant | N-(5-((1S,3S)-3-(5-amino-1,3,4-thiadiazol-2-yl)cyclohexyl)-1,3,4-thiadiazol-2-yl)-2-(pyridin-2-yl)acetamide | 0.12 mmol, 50 mg | NC1=NN=C(S1)[C@@H]1C[C@H](CCC1)C1=NN=C(S1)NC(CC1=NC=CC=C1)=O | C17H19N7OS2
reactant | 2-(2-methoxyphenyl)acetic acid | 0.19 mmol, 31.0 mg | COC1=C(C=CC=C1)CC(=O)O | C9H10O3
reactant | HATU | 0.19 mmol, 71.0 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.22 mmol, 29.0 mg | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 10 ml | O | H2O
product | 2-(2-methoxyphenyl)-N-(5-((1S,3S)-3-(5-(2-(pyridin-2-yl)acetamido)-1,3,4-thiadiazol-2-yl)cyclohexyl)-1,3,4-thiadiazol-2-yl)acetamide | COC1=C(C=CC=C1)CC(=O)NC=1SC(=NN1)[C@@H]1C[C@H](CCC1)C=1SC(=NN1)NC(CC1=NC=CC=C1)=O | C26H27N7O3S2
